US07687534B2
Step A. tert-Butyl 4-[2-(4-chlorophenyl)-2-oxoethyl]benzoate
A THF solution (200 ml) containing t-butyl 4-bromobenzoate (19.9 g, 77.6 mmol), 4-chloroacetophenone (10 g, 64.7 mmol), Pd2 dba3 (1.19 g, 1.29 mmol), BINAP (1.6 g, 2.58 mmol) and NaOtBu (8.7 g, 90.6 mmol) was refluxed under an argon atmosphere for approximately 5 hours. The solution was concentrated and then partitioned between EtOAc and water. The organic phase was washed with water, brine and dried over Na2SO4. The filtered solution was concentrated and the residue purified by silica gel chromatography using a hexanes/EtOAc gradient to give the title compound. 1H NMR (500 MHz, CDCl3): δ 7.95 (d, J=8.5 Hz, 2H); 7.93 (d, J=8.7 Hz, 2H); 7.43 (d, J=8.3 Hz, 2H); 7.29 (d, J=8.2 Hz, 2H); 4.30 (s, 2H); 1.58 (s, 9H). LC1 4.01 min. (M-tBu+H)=275

reactant | t-butyl 4-bromobenzoate | 77.6 mmol, 19.9 g | BrC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H13BrO2
reactant | 4-chloroacetophenone | 64.7 mmol, 10 g | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
reactant | BINAP | 2.58 mmol, 1.6 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 90.6 mmol, 8.7 g | CC(C)(C)[O-].[Na+]
catalyst | Pd2 dba3 | 1.29 mmol, 1.19 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | tert-Butyl 4-[2-(4-chlorophenyl)-2-oxoethyl]benzoate | ClC1=CC=C(C=C1)C(CC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C19H19ClO3
